US06951856B2
To a mixture of 1,2-dimethoxyethan (15 ml) and ethyleneglycol (40 ml) was added sodium (298 mg) in small portions. The mixture was stirred until the sodium was completely dissolved. Then DMF (15 ml), followed by 2-phenyl-ethenesulfonic acid(6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide (1.0 g) was added. Stirring was continued for 4 days at 100° C. The mixture was evaporated and water (150 ml) was added to the residue followed by addition of acetic acid (1.0 ml). The precipitate was filtered off, washed with water and dried. The crude material was purified by chromatography over silicagel with EtOAc/methanol/aqueous ammonia (25%)=4/1/0.5 to give 2-phenyl-ethenesulfonic acid[6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide (500 mg). tR=4.54 (LC); M+=412.38 (ES+).

reactant | 1,2-dimethoxyethan | 15 ml | COCCOC | C4H10O2
reactant | ethyleneglycol | 40 ml | C(CO)O | C2H6O2
reactant | sodium | 298 mg | [Na] | Na
reactant | 2-phenyl-ethenesulfonic acid(6-chloro-5-p-tolyl-pyrimidin-4-yl)-amide | 1.0 g | ClC1=C(C(=NC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)C1=CC=C(C=C1)C | C19H16ClN3O2S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-phenyl-ethenesulfonic acid[6-(2-hydroxy-ethoxy)-5-p-tolyl-pyrimidin-4-yl]-amide | 500 mg | OCCOC1=C(C(=NC=N1)NS(=O)(=O)C=CC1=CC=CC=C1)C1=CC=C(C=C1)C | C21H21N3O4S
